US04451462
42.6 ml (0.6 mole) of acetyl chloride are added dropwise in the course of 1 hour at room temperature, while stirring, to 81.1 g (0.5 mole) of 4-methyl-2-(1-methyl-2-propenyl)-phenol. The reaction mixture is then heated to 100° and left at this temperature for 2 hours. After cooling, water is cautiously added and extraction is carried out with methylene chloride. The organic phase is dried over sodium sulphate and concentrated by evaporation. Subsequent distillation of the remaining residue (64°-70°/4.10-2 torr) yields 4-methyl-2-(1-methyl-2-propenyl)-phenyl acetate in the form of a pale-yellow oil.

reactant | acetyl chloride | 0.6 mole, 42.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-methyl-2-(1-methyl-2-propenyl)-phenol | 0.5 mole, 81.1 g | CC1=CC(=C(C=C1)O)C(C=C)C | C11H14O
solvent | water | O | H2O
product | 4-methyl-2-(1-methyl-2-propenyl)-phenyl acetate | C(C)(=O)OC1=C(C=C(C=C1)C)C(C=C)C | C13H16O2
